US09303012B2
(S)-1-[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-4,4-difluoro-pyrrolidine-2-carboxylic acid amide
In analogy to the procedure described in Example 47 b), 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid (Example 5 g)) was reacted with (S)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride (CAN 426844-51-1) in the presence of TBTU and DIEA to obtain the title compound as colorless oil; MS (EI): m/e=404.5 [MH+].

reactant | 5-cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carboxylic acid | 5 g | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)O | C16H14FNO2
reactant | (S)-4,4-difluoropyrrolidine-2-carboxamide hydrochloride | Cl.FC1(C[C@H](NC1)C(=O)N)F
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
product | (S)-1-[5-Cyclopropyl-6-(4-fluoro-benzyl)-pyridine-2-carbonyl]-4,4-difluoro-pyrrolidine-2-carboxylic acid amide | C1(CC1)C=1C=CC(=NC1CC1=CC=C(C=C1)F)C(=O)N1[C@@H](CC(C1)(F)F)C(=O)N | C21H20F3N3O2
